US08912338B2
Preparation of ethyl 1-(hydroxymethyl)cyclopropanecarboxylate
A 1M solution of lithium aluminum tri-tert-butoxyhydride in tetrahydrofuran (12 mL, 12 mmol, 2.2 equiv) was added to a stirred solution of diethyl cyclopropane-1,1′-dicarboxylate (1.0 mL, 5.7 mmol, 1.0 equiv) in tetrahydrofuran (19 mL) at 23° C. The resulting solution was heated to 65° C. and stirred for 24 h. The cooled reaction mixture was diluted with a 10% solution of sodium bisulfate (100 mL) and extracted with ethyl acetate (4×50 mL). The combined organic layers were dried (MgSO4), gravity-filtered, and concentrated by rotary evaporation to afford the title compound as a pale yellow oil (850 mg, 88%): 1H NMR (300 MHz, CDCl3) δ 4.16 (q, J=7 Hz, 2H), 3.62 (s, 2H), 2.60 (br s, 1H), 1.22-1.30 (m, 5H), 0.87 (dd, J=7, 4 Hz, 2H).

reactant | lithium aluminum tri-tert-butoxyhydride | [Li].CC(C)(C)[O-].CC(C)(C)[O-].CC(C)(C)[O-].[Al+3]
reactant | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 12 mmol, 12 mL, 2.2 equiv | O1CCCC1 | C4H8O
solvent | sodium bisulfate | 100 mL | S([O-])(O)(=O)=O.[Na+]
product | ethyl 1-(hydroxymethyl)cyclopropanecarboxylate | 850 mg, 88% | OCC1(CC1)C(=O)OCC | C7H12O3
